US08283353B2
4′-{[7-butyl-4-(4-methoxycyclohexyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a mixture of 4′-{[7-butyl-4-(4-hydroxycyclohexyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.37 g), methyl iodide (0.053 mL) and N,N-dimethylformamide (10 mL) was added sodium hydride (0.034 g), and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.16 g, 42%).

reactant | 4′-{[7-butyl-4-(4-hydroxycyclohexyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.37 g | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC(CC2)O)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C29H31N5O2
reactant | methyl iodide | 0.053 mL | CI | CH3I
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.034 g | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[7-butyl-4-(4-methoxycyclohexyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.16 g, 42% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC(CC2)OC)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C30H33N5O2
